US04166125
N-Phenylphthalimidine
A mixture of N-phenylphthalimide (100 g), zinc powder (147 g) and acetic acid (700 ml) is heated under reflux for 5.5 hours with stirring. After cooling, the mixture is filtered and the insoluble solid is washed with hot acetic acid (100 ml). The combined filtrate and washings are concentrated to give crystal (72 g, 78%). Recrystallization from benzene gives colorless scales. Melting point: 166° to 167° C.

reactant | N-phenylphthalimide | 100 g | C1(=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO2
catalyst | zinc | 147 g | [Zn] | Zn
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
product | N-Phenylphthalimidine | 72 g, 78% | C1C2=CC=CC=C2C(=O)N1C3=CC=CC=C3 | C14H11NO
